Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
alprazolam / diazepam
 
Attending: ___.
 
Chief Complaint:
Fall/Syncope 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with PMHx of HTN, HLD who is
presenting for syncope and fall.

She has been feeling unwell for almost a month.  She states she
had some potato salad which "didn't agree with her," and it has
been "downhill ever since."  She had diarrhea for ___ days, 
along
with decreased appetite, weakness, flatulence, eating only soup
and veggies, and often missing her potassium supplementation. 
She was seen by her PCP ___, and she was advised to avoid 
lactose
and take a probiotic.  The diarrhea resolved, but decreased
appetite did not.  She started to develop abdominal bloating and
increasing flatulence, as well as belching (though no
reflux/burning). She was seen again ___ for constipation, and
was advised to take senna/Colace (which she didn't need, as she
started having normal BM's).  Outpatient labs on ___ showed
normal Lipase and LFT's, and K of 3.1.  She was advised to
increase her potassium supplementation.  She reports ___ pound
weight loss over this time frame.

Earlier today, she reports collapsing after standing up from the
couch. Shortly after standing up, she felt dizzy rather 
suddenly,
and fell.  As she was falling down, she called out to her
granddaughter, who came to the room then called ___.  Per her
daughter she was down for <1 min, after which she regained
consciousness, feeling somewhat fatigued and weak afterwards, 
but
not confused.  She did not hit her head that she recalls.

Denies fever, chills, chest pain, SOB, DOE, palpitations,
abdominal pain, dysuria, dark urine. Denies slurred speech,
facial droop, focal weakness, convulsions, tongue biting, muscle
jerking. She denies any pain.

In the ED, initial VS were: 98.0, HR 92, BP 138/78, RR 19, 100%
RA

Orthostatics in ED were positive:
- BP 135/83 to 114/84
- HR 95 to 115

Initial K was 2.7, improved to 3.4 after repletion

Patient received:  60mEq PO KCl, 40mEq IV KCl, 1L NS

 
Past Medical History:
HTN
HLD
Vitamin D deficiency
Anxiety
OA
Fibroid uterus s/p hysterectomy
___ eye surgery

 
Social History:
___
Family History:
Multiple family members with HTN
No hx of CAD, DM, breast CA, ovarian CA, colon CA, cervical CA
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM: 
=========================
 
VS:  98.2, 131/76, HR 100, RR 20, 96 RA
GENERAL: NAD, pleasant
HEENT: AT/NC, anicteric sclera, no pallor
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, breathing comfortably
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: no rashes, poor skin turgor 

=========================
DISCHARGE PHYSICAL EXAM: 
=========================
Vitals: T 98.9 BP 124/81 HR 85 RR 18 O2 98% on RA
Orthostatic BP: 116/79 lying -> 122/80 sitting -> 116/81 
standing
GENERAL: NAD, pleasant
HEENT: AT/NC, anicteric sclera, no pallor
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, breathing comfortably
ABDOMEN: soft, non-tender, non-distended 
EXTREMITIES: no cyanosis, clubbing, or edema. Good pulses. 
NEURO: A&Ox3
SKIN: no rashes, improved skin turgor 
 
Pertinent Results:
=================
ADMISSION LABS
=================

___ 08:52AM   GLUCOSE-114* UREA N-7 CREAT-0.7 SODIUM-144 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-27 ANION GAP-15
___ 08:52AM   ALT(SGPT)-17 AST(SGOT)-21 ALK PHOS-87 TOT 
BILI-0.3
___ 08:52AM   ALBUMIN-3.9
___ 07:30AM URINE  HOURS-RANDOM
___ 07:30AM URINE  UHOLD-HOLD
___ 07:30AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 07:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 05:55AM   GLUCOSE-150* UREA N-8 CREAT-0.8 SODIUM-138 
POTASSIUM-2.7* CHLORIDE-95* TOTAL CO2-27 ANION GAP-16
___ 05:55AM   estGFR-Using this
___ 05:55AM   cTropnT-<0.01
___ 05:55AM   CALCIUM-9.6 PHOSPHATE-3.0 MAGNESIUM-2.1
___ 05:55AM   WBC-9.9# RBC-4.95 HGB-15.0 HCT-44.4 MCV-90 
MCH-30.3 MCHC-33.8 RDW-12.7 RDWSD-41.7
___:55AM   NEUTS-83.6* LYMPHS-9.3* MONOS-6.4 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.27* AbsLymp-0.92* AbsMono-0.63 
AbsEos-0.00* AbsBaso-0.02
___ 05:55AM   ___ PTT-27.8 ___
___ 05:55AM   PLT COUNT-228

=================
MICROBIOLOGY
=================
___ 7:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

=================
IMAGING
=================
CT C-SPINE W/O CONTRAST (___):
1.  No evidence of acute fracture or traumatic malalignment. 
2.  Multilevel degenerative changes with anterior spondylosis 
suggesting DISH. 

CT HEAD W/O CONTRAST (___):
No evidence of acute intracranial process or hemorrhage.  No 
fractures are 
identified. 

CHEST (PA AND LAT) (___):
Bibasilar atelectasis, but no focal consolidations. 

===================
DISCHARGE RESULTS
===================
___ 06:25AM BLOOD WBC-6.3 RBC-4.25 Hgb-12.8 Hct-39.0 MCV-92 
MCH-30.1 MCHC-32.8 RDW-12.9 RDWSD-43.1 Plt ___
___ 06:25AM BLOOD Glucose-98 UreaN-5* Creat-0.6 Na-143 
K-3.8 Cl-103 HCO3-27 AnGap-___ with a h/o HTN and HLD who presents with syncope and fall in 
the setting of several weeks of GI symptoms, poor PO intake, and 
hypokalemia. Currently recovering well with no symptoms, no 
orthostasis, and no cardiac arrhythmias detected. 

==================
ACUTE ISSUES
==================
# Syncope:  
Presented with syncope on standing, most likely from
orthostatic hypotension, in the setting of dehydration,
hypokalemia, and ongoing use of antihypertensives.  Orthostatics
were positive in the ED and she has poor skin turgor and poor PO
intake. She was resuscitated with IV fluids.  Telemetry did not 
show any arrhythmias.  Pt had an EKG on arrival with prolonged 
QTc and some T-wave flattening in precordial leads; cardiac 
enzymes were not elevated in spite of this, and QTc corrected.  
By discharge, Pt was no longer orthostatic by vital sign 
criteria.  

# Diarrhea
# Weakness, Fatigue
See HPI, as well as OMR for notes from pt's PCP, who saw her ___
for distension and loose stools, and ___ for constipation.  Has
had about 1 month of symptoms, initially diarrhea, now with
ongoing flatulence, poor appetite, belching, and subsequent
weakness.  Abd exam reassuring, recent outpatient LFT's/Lipase
reassuring as well. During admission patient was having bowel 
movements without issue, and no longer has any GI complaints at 
this time. 

# EKG Findings: One of patient's EKGs showed T wave inversions 
in the pre-cordial leads, however her clinical picture and her 
negative troponin labs lowered concerns for cardiac ischemia. 

CHRONIC/STABLE ISSUES:
# HYPOKALEMIA:
- Home potassium supplements

# HYPERTENSION:
- Held home HCTZ, amlodipine given normotensive
- Resumed metoprolol at half home dose (25mg succinate daily)

# HLD:
- Home simvastatin

# VITAMIN D DEFICIENCY:
- Home supplemtn

TRANSITIONAL ISSUES:
# CONTACT:  
Name of health care proxy: ___ 
___: Granddaughter 
Phone number: ___
# CODE:  Full, presumed

[ ] MEDICATION CHANGES:
- Held:  Amlodipine, HCTZ (given normotension)
- Decreased:  Metoprolol succinate (50mg daily -> 25mg daily

[ ] ECG CHANGES:
- Pt with T-wave flattening in the precordial leads, most 
prominent in V1-V3.  Pt had negative cardiac enzymes throughout 
her workup, making acute ischemic origin less likely.

[ ] FOLLOW-UP LABS:
- Please check chem10 at PCP appointment on ___ to evaluate 
for status of hypokalemia while on home repletion; also to 
assess kidney function in setting of holding antihypertensives.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. Potassium Chloride (Powder) 20 mEq PO BID 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
2.  Potassium Chloride (Powder) 20 mEq PO BID  
3.  Simvastatin 40 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  
5. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until you discuss restarting with your 
primary care doctor
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you discuss 
restarting with your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Orthostatic hypotension
- Diarrhea

SECONDARY DIAGNOSIS:
- Hypokalemia 
- History of hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
- You had a recent fall.
- We believe that you fell because you had a temporary decrease 
in blood pressure after standing up (called "orthostatic 
hypotension"). 

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- You were found to be dehydrated; we gave you fluids for this. 
- You also were found to have low levels of potassium within 
your blood (hypokalemia). 
- Other causes of your fall were considered and explored with 
various tests including EKGs and heart enzyme studies.  Your 
testing did not show any signs of damage to your heart.

WHAT SHOULD I DO WHEN I AM OUT OF THE HOSPITAL?
- You should make sure to drink plenty of fluids daily to avoid 
dehydration. 
- You should try and eat regularly in order to make sure 
potassium levels in your blood do not drop too low. 
- You should continue to follow up with your PCP to coordinate 
long term management of your potassium levels. 

We wish you the best,
Your ___ Care Team

 
Followup Instructions:
___